US08455646B2
Preparation of bromo-(3-fluoro-phenyl)-acetic acid methyl ester (I96)
Methyl 2-(3-fluorophenyl)acetate (1.90 g, 11.3 mmol) and N-bromo succinimide (2.01 g, 11.3 mmol) are dissolved in CCl4 (80 mL). HBr (64 ul, 0.56 mmol) is added and the mixture is stirred under reflux overnight. The mixture is cooled at RT, diluted with DCM and washed with sat. NaHCO3, water and brine. The organic layer is dried (Na2SO4), filtered and evaporated obtaining intermediate I144 as a yellow oil (2.68 g, 96% yield).

reactant | Methyl 2-(3-fluorophenyl)acetate | 11.3 mmol, 1.90 g | FC=1C=C(C=CC1)CC(=O)OC | C9H9FO2
reactant | N-bromo succinimide | 11.3 mmol, 2.01 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | CCl4 | 80 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | HBr | 0.56 mmol, 64 ul | Br | BrH
product | bromo-(3-fluoro-phenyl)-acetic acid methyl ester | 2.68 g, 96% yield | COC(C(C1=CC(=CC=C1)F)Br)=O | C9H8BrFO2
